US09278983B2
A mixture of iron powder (700 mg), acetic acid (60 μl), ethanol (5 ml), and water (3 ml) was stirred with heating at 70° C., and then a mixture of N-ethyl-(3-nitro-5-trifluoromethylpyridin-2-yl)-amine (490 mg) and ethanol (10 ml) was added dropwise. The mixture was stirred with heating at 70° C. for 3 hours. The reaction mixture cooled to room temperature was filtered through Celite®, and the resulting filtrate was concentrated under reduced pressure. The resulting residue was diluted with saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.29 g of N2-ethyl-5-trifluoromethylpyridin-2,3-diamine (Compound (1F)-8).

reactant | acetic acid | 60 μl | C(C)(=O)O | C2H4O2
reactant | water | 3 ml | O | H2O
reactant | N-ethyl-(3-nitro-5-trifluoromethylpyridin-2-yl)-amine | 490 mg | C(C)NC1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F | C8H8F3N3O2
catalyst | iron | 700 mg | [Fe] | Fe
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N2-ethyl-5-trifluoromethylpyridin-2,3-diamine | 0.29 g | C(C)NC1=NC=C(C=C1N)C(F)(F)F | C8H10F3N3
